US07381826B2
(2-Chlorophenyl)-(2-fluoropyridin-3-yl)-methanol
Add diisopropylamine-(286.6 g, 2.83 mol) to a −63° C. solution of n-butyllithium (2.47 M in hexanes, 917 mL, 2.27 mol) while maintaining the temperature below −38° C. Add tetrahydrofuran (1.20 L) while maintaining the temperature below −43° C. To the resulting solution add 2-fluoropyridine (200.0 g, 2.06 mol) while maintaining the temperature between −66° C. and −57° C. Stir the resulting solution between −72° C. and −57° C. for 45 min. To this solution add a solution of 2-chlorobenzaldehyde (318.5 g, 2.27 mol) in tetrahydrofuran (125 mL) while maintaining the temperature between −70° C. and −39° C. Stir the resulting solution between −73° C. to −50° C. for 1 h, and then add methanol (198 g, 6.18 mol). Allow the solution to warm to −30° C. and stir for 30 min. Add the resulting solution to a −13° C. mixture of toluene (1.20 L) and 3 N hydrochloric acid (1.85 L, 5.55 mol). Separate the layers and extract the aqueous layer with toluene (1.2 L). Extract the combined organic layers with water (1.8 L), and then concentrate this solution at 60° C. under reduced pressure to an approximate weight of 910 g. Cool the solution to 25° C. Crystallization will occur. Stir the resulting slurry for 1 h. Add cyclohexane (2.0 L) over a period of 5 min, and then stir the resulting slurry for 14 h. Collect the resulting solid by filtration and wash the solid with cyclohexane (500 mL). Dry the solid under vacuum at 45° C. for 4 h to afford the title compound as a white solid. 1H NMR (400 MHz, DMSO-D6) δ ppm 6.17 (d, J=4.80 Hz, 1H) 6.35 (d, J=4.80 Hz, 1H) 7.29-7.38 (m, 2H) 7.42 (t, J=7.71 Hz, 1H) 7.41-7.46 (m, 1H) 7.61-7.67 (m, 1H) 7.75-7.88 (m, 1H) 8.16 (d, J=4.55 Hz, 1H).

reactant | diisopropylamine- | 2.83 mol, 286.6 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.27 mol, 2.47 M, 917 mL | C(CCC)[Li]
reactant | 2-fluoropyridine | 2.06 mol, 200.0 g | FC1=NC=CC=C1 | C5H4FN
reactant | 2-chlorobenzaldehyde | 2.27 mol, 318.5 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | methanol | 6.18 mol, 198 g | CO | CH4O
reactant | hydrochloric acid | 5.55 mol, 3 N, 1.85 L | Cl | ClH
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.20 L | O1CCCC1 | C4H8O
solvent | toluene | 1.20 L | C1(=CC=CC=C1)C | C7H8
product | (2-Chlorophenyl)-(2-fluoropyridin-3-yl)-methanol | ClC1=C(C=CC=C1)C(O)C=1C(=NC=CC1)F | C12H9ClFNO
